US03994939
To a stirred solution of 529 mg. (1 mmole) of 6-(triphenylmethylamino)-2,2-dimethyl-3-(N-[ethoxycarbonyl]carbamoyl)penam and 240 mg. (3 mmole) of pyridine, in 25 ml. of methylene chloride, is added 208 mg. (1 mmole) of phosphorus pentachloride, at 0° C. The reaction mixture is stirred at 0° C. for 0.5 hour and then at ca. 25° C. for 2 hours. The solvents and the excess pyridine are then removed by evaporation in vacuo, and the residue is re-dissolved in 15 ml. of chloroform. The latter chloroform solution is cooled to 0° C., and 0.47 g. (3 mmole) of tetramethylguanidinium azide is added in several small portions with stirring. Stirring is continued for 2 hours at ambient temperature, and then to the reaction mixture is added a further 15 ml. of chloroform followed by 30 ml. of water. The pH is adjusted to 6.5, and then the chloroform layer is removed. The chloroform solution is washed with water followed by brine, and then it is dried using anhydrous sodium sulfate. Removal of the solvent by evaporation in vacuo affords crude 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-[ethoxycarbonyl]tetrazol-5-yl)penam. The crude product is purified further by chromatography using silica gel.

reactant | 6-(triphenylmethylamino)-2,2-dimethyl-3-(N-[ethoxycarbonyl]carbamoyl)penam | 1 mmole | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C(NC(=O)OCC)=O)C1=O | C30H31N3O4S
reactant | pyridine | 3 mmole | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | 1 mmole | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | tetramethylguanidinium azide | 3 mmole | [N-]=[N+]=[N-].CN(C(N(C)C)=[NH2+])C
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-[ethoxycarbonyl]tetrazol-5-yl)penam | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2C(=O)OCC)C1=O | C30H30N6O3S
